US05284837
Sodium ethyl 3-(guanin-9-ylmethyl)-4-hydroxybutanephosphonate and 7 isomer
2-Amino-6-chloro-9-[(2-ethoxy-2-oxo-1,2-oxaphosphorinan-5-yl)-methyl]purine (VSC 655) and its 7 isomer (100 mg, 0.29 mmol), dissolved in ethanol (4 ml), water (4 ml), and 2M aqeous sodium hydroxide (0.90 mmol) was kept at 37° C. for 18 h. The solution was neutralized by addition of weakly acidic Amberlite cation exchange resin, filtered, and evaporated to dryness to give 113 mg (quantitative yield) of a crude product.

reactant | 2-Amino-6-chloro-9-[(2-ethoxy-2-oxo-1,2-oxaphosphorinan-5-yl)-methyl]purine | NC1=NC(=C2N=CN(C2=N1)CC1CCP(OC1)(=O)OCC)Cl | C12H17ClN5O3P
reactant | water | 4 ml | O | H2O
reactant | sodium hydroxide | 0.90 mmol, 2M | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Sodium ethyl 3-(guanin-9-ylmethyl)-4-hydroxybutanephosphonate | 113 mg, quantitative yield | N1C(N)=NC=2N(C=NC2C1=O)CC(CCP([O-])(=O)OCC)CO.[Na+] | InChI=1S/C12H20N5O5P.Na/c1-2-22-23(20,21)4-3-8(6-18)5-17-7-14-9-10(17)15-12(13)16-11(9)19;/h7-8,18H,2-6H2,1H3,(H,20,21)(H3,13,15,16,19);/q;+1/p-1
